*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/1.50e-03[uF]/250[V]
* Murata P/N :GCM21A7U2E152JX01
* Property : C = 1.50e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E152JX01 Port1 Port2
C01 Port1 N01 1.49e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 2.17e-10
R03 N02 N03 1.65e-02
L04 N03 N04 8.08e-11
R04 N03 N04 7.51e-01
C05 N04 N05 2.27e-08
L05 N04 N05 6.24e-11
R05 N04 N05 2.01e-02
C06 N05 N06 9.51e-09
L06 N05 N06 1.52e-11
R06 N05 N06 2.13e-01
C07 N06 N07 1.54e-09
L07 N06 N07 3.59e-11
R07 N06 N07 4.83e-01
C08 N07 Port2 1.58e-12
L08 N07 Port2 2.20e-10
R08 N07 Port2 2.54e+02
.ENDS GCM21A7U2E152JX01
