*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/1.80e-04[uF]/250[V]
* Murata P/N :GCM21A7U2E181JX01
* Property : C = 1.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E181JX01 Port1 Port2
C01 Port1 N01 1.80e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 9.74e-12
R03 N02 N03 1.18e-01
L04 N03 N04 1.50e-10
R04 N03 N04 4.79e+00
C05 N04 N05 4.34e-09
L05 N04 N05 5.20e-12
R05 N04 N05 2.18e-01
C06 N05 N06 3.26e-10
L06 N05 N06 2.73e-11
R06 N05 N06 1.08e+00
C07 N06 Port2 9.72e-13
L07 N06 Port2 5.11e-10
R07 N06 Port2 8.79e+02
.ENDS GCM21A7U2E181JX01
