*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/1.80e-03[uF]/250[V]
* Murata P/N :GCM21A7U2E182JX01
* Property : C = 1.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E182JX01 Port1 Port2
C01 Port1 N01 1.76e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 3.88e-11
R03 N02 N03 1.47e-02
L04 N03 N04 9.24e-11
R04 N03 N04 5.59e-01
C05 N04 N05 3.63e-08
L05 N04 N05 5.44e-11
R05 N04 N05 1.79e-02
C06 N05 N06 1.10e-08
L06 N05 N06 1.68e-11
R06 N05 N06 2.36e-01
C07 N06 N07 2.53e-09
L07 N06 N07 2.88e-11
R07 N06 N07 4.40e-01
C08 N07 Port2 7.22e-13
L08 N07 Port2 3.90e-10
R08 N07 Port2 4.68e+02
.ENDS GCM21A7U2E182JX01
