*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/2.20e-03[uF]/250[V]
* Murata P/N :GCM21A7U2E222JX01
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E222JX01 Port1 Port2
C01 Port1 N01 2.24e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 7.95e-11
R03 N02 N03 1.15e-02
L04 N03 N04 9.78e-11
R04 N03 N04 5.26e-01
C05 N04 N05 5.18e-08
L05 N04 N05 5.22e-11
R05 N04 N05 1.65e-02
C06 N05 N06 1.00e-08
L06 N05 N06 2.53e-11
R06 N05 N06 3.24e-01
C07 N06 N07 3.43e-09
L07 N06 N07 3.08e-11
R07 N06 N07 5.35e-01
C08 N07 Port2 1.03e-12
L08 N07 Port2 3.00e-10
R08 N07 Port2 3.59e+02
.ENDS GCM21A7U2E222JX01
