*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/3.90e-04[uF]/250[V]
* Murata P/N :GCM21A7U2E391JX01
* Property : C = 3.90e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E391JX01 Port1 Port2
C01 Port1 N01 3.90e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 5.40e-12
R03 N02 N03 8.09e-02
L04 N03 N04 1.04e-10
R04 N03 N04 1.60e+00
C05 N04 N05 6.59e-09
L05 N04 N05 8.25e-12
R05 N04 N05 1.48e-01
C06 N05 N06 6.01e-10
L06 N05 N06 3.96e-11
R06 N05 N06 7.82e-01
C07 N06 Port2 9.21e-13
L07 N06 Port2 5.43e-10
R07 N06 Port2 9.52e+02
.ENDS GCM21A7U2E391JX01
