*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/4.70e-04[uF]/250[V]
* Murata P/N :GCM21A7U2E471JX01
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E471JX01 Port1 Port2
C01 Port1 N01 4.70e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 4.04e-11
R03 N02 N03 6.63e-02
L04 N03 N04 8.47e-11
R04 N03 N04 1.31e+00
C05 N04 N05 7.46e-09
L05 N04 N05 9.39e-12
R05 N04 N05 1.89e-01
C06 N05 N06 7.11e-10
L06 N05 N06 4.41e-11
R06 N05 N06 8.32e-01
C07 N06 Port2 9.52e-13
L07 N06 Port2 4.91e-10
R07 N06 Port2 1.27e+03
.ENDS GCM21A7U2E471JX01
