*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/5.60e-04[uF]/250[V]
* Murata P/N :GCM21A7U2E561JX01
* Property : C = 5.60e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E561JX01 Port1 Port2
C01 Port1 N01 5.60e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 7.43e-11
R03 N02 N03 7.25e-02
L04 N03 N04 9.33e-11
R04 N03 N04 9.61e-01
C05 N04 N05 1.38e-08
L05 N04 N05 5.23e-12
R05 N04 N05 7.15e-02
C06 N05 N06 9.39e-10
L06 N05 N06 3.01e-11
R06 N05 N06 5.21e-01
C07 N06 Port2 8.71e-13
L07 N06 Port2 5.39e-10
R07 N06 Port2 1.67e+03
.ENDS GCM21A7U2E561JX01
