*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/U2J(-55to125[deg])/8.20e-04[uF]/250[V]
* Murata P/N :GCM21A7U2E821JX01
* Property : C = 8.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A7U2E821JX01 Port1 Port2
C01 Port1 N01 8.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 4.54e-12
R03 N02 N03 5.31e-02
L04 N03 N04 9.77e-11
R04 N03 N04 7.78e-01
C05 N04 N05 1.49e-08
L05 N04 N05 8.44e-12
R05 N04 N05 1.22e-01
C06 N05 N06 1.48e-09
L06 N05 N06 3.77e-11
R06 N05 N06 5.86e-01
C07 N06 Port2 9.01e-13
L07 N06 Port2 5.38e-10
R07 N06 Port2 7.66e+02
.ENDS GCM21A7U2E821JX01
