*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.80e-02[uF]/50[V]
* Murata P/N :GCM21B2C1H183JA01
* Property : C = 1.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B2C1H183JA01 Port1 Port2
C01 Port1 N01 1.78e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.45e-12
R03 N02 N03 4.00e-03
L04 N03 N04 1.23e-10
R04 N03 N04 1.69e-01
L05 N04 N05 7.82e-11
R05 N04 N05 2.57e-03
C06 N05 N06 5.18e-08
L06 N05 N06 4.62e-11
R06 N05 N06 2.41e-01
C07 N06 N07 3.02e-08
L07 N06 N07 3.58e-11
R07 N06 N07 2.42e-01
C08 N07 N08 1.90e-11
L08 N07 N08 1.45e-11
R08 N07 N08 6.35e-01
C09 N08 Port2 6.17e-13
L09 N08 Port2 3.50e-10
R09 N08 Port2 1.00e+05
.ENDS GCM21B2C1H183JA01
